US06620811B2
N-(4-Methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-2-[2-(2-oxo-pyrrolidin-1-yl)-ethoxy]-isonicotinamide
From 2-chloro-N-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-isonicotinamide with sodium hydride and 1-(2-hydroxyethyl)-2-pyrrolidone in dioxane. ES-MS m/e (%): 520 (M+Na+, 47), 498 (M+H+, 100). Analogously to Example 7 there were obtained:

reactant | 2-chloro-N-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-isonicotinamide | ClC=1C=C(C(=O)NC=2SC3=C(N2)C(=CC=C3N3CCOCC3)OC)C=CN1 | C18H17ClN4O3S
reactant | sodium hydride | [H-].[Na+]
reactant | 1-(2-hydroxyethyl)-2-pyrrolidone | OCCN1C(CCC1)=O | C6H11NO2
solvent | dioxane | O1CCOCC1 | C4H8O2
product | N-(4-Methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-2-[2-(2-oxo-pyrrolidin-1-yl)-ethoxy]-isonicotinamide | COC1=CC=C(C2=C1N=C(S2)NC(C2=CC(=NC=C2)OCCN2C(CCC2)=O)=O)N2CCOCC2 | C24H27N5O5S
